US07745451B2
C. 6-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl) phenyl)pyrido[4,3-d]pyrimidin-4-amine
The title compound was prepared according to the procedure given for Compound 4C using 5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine (160 mg, 0.45 mmol), 2,3-dichloropyridine (135 mg, 0.9 mmol) and N,N-diisopropylethylamine (0.16 mL, 0.9 mmol) to give the desired compound as an off-white powder (40 mg, 19%).

reactant | 5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine | 0.45 mmol, 160 mg | FC(S(=O)(=O)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CCNC2)(F)F | C14H13F3N4O2S
reactant | 2,3-dichloropyridine | 0.9 mmol, 135 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | N,N-diisopropylethylamine | 0.9 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 6-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl) phenyl)pyrido[4,3-d]pyrimidin-4-amine | 40 mg, 19% | ClC=1C(=NC=CC1)N1CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)CC1 | C19H15ClF3N5O2S
